US06380242B1
(a) 1-(2-(N,N-Dimethylamino)ethyl)-6-(3-pyridyl)-1H-indole
In a 25 mL round bottom flask equipped with a stir bar was added 6-Bromo-1-(2-(N,N-dimethylamino)ethyl)-1H-indole (0.10 g; 0.37 mmol), pyridine-3-boronic acid-1,3-propanediol cyclic ester (0.12 g; 0.74 mmol), toluene (10 mL), sodium carbonate (2M) (4 mL) and tetrakis(triphenylphosphine)palladium(0) (0.02 g; 0.04 mmol). The reaction mixture was refluxed overnight, filtered through a pad of celite and the solvent evaporated in vacuo. The residue was dissolved in ethyl acetate (30 mL) and successively washed with water (2×20 mL) and brine (20 mL). The organic phase was dried (sodium sulfate), filtered and the solvent was removed in vacuo. The crude residue was purified by column chromatography on silica gel using chloroform:ammonialmethanol (2N) (98:2) to yield the title compound as yellow oil (0.08 g; 85%). 13C NMR (CDCl3): δ 148.6, 147.8, 137.9, 136.5, 134.5, 131.4, 129.3, 128.5, 123.5, 121.6, 118.9, 107.9, 101.3, 59.1, 45.8, 44.8.

reactant | 6-Bromo-1-(2-(N,N-dimethylamino)ethyl)-1H-indole | 0.37 mmol, 0.10 g | BrC1=CC=C2C=CN(C2=C1)CCN(C)C | C12H15BrN2
reactant | pyridine-3-boronic acid-1,3-propanediol cyclic ester | 0.74 mmol, 0.12 g | B1(OCCCO1)C2=CN=CC=C2 | C8H10BNO2
reactant | sodium carbonate | 2M, 4 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.04 mmol, 0.02 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2-(N,N-Dimethylamino)ethyl)-6-(3-pyridyl)-1H-indole | 0.08 g, 85% | CN(C)CCN1C=CC2=CC=C(C=C12)C=1C=NC=CC1 | C17H19N3
